US05104892
Step 3) Preparation of N-[4-(3-Chloro-1-propylthio)phenyl]methanesulfonamide
To a cooded (5° C.) solution of 1-chloro-3-(4-aminothiophenoxy)propane (4.9 g, 0.024 mol) and pyridine (2.1 g 0.027 mol) in CH2Cl2 (50 mL) was added methanesulfonyl chloride (3.1 g, 0.027 mol). The mixture was stirred at room temperature for 16 hours, washed with 2 N HCl, brine, dried (MgSO4), and concentrated. Recrystallization from EtOH gave 4.0 g (59%) of product as a pink solid m.p. 61°-63° C.

reactant | 1-chloro-3-(4-aminothiophenoxy)propane | 0.024 mol, 4.9 g | ClCCCSC1=CC=C(C=C1)N | C9H12ClNS
reactant | pyridine | 0.027 mol, 2.1 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.027 mol, 3.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-Chloro-1-propylthio)phenyl]methanesulfonamide | 4.0 g, 59% | ClCCCSC1=CC=C(C=C1)NS(=O)(=O)C | C10H14ClNO2S2
